US07718797B2
Homopiperazine (3.413 g) was dissolved in tetrahydrofuran (57 ml) with stirring. After cooling the solution to −5° C., 5-isoquinolinesulfonyl chloride hydrochloride (3.00 g) was added while maintaining the internal temperature at 10° C. or less. The mixture was stirred at 5° C. or less for four hours. The reaction mixture was allowed to stand to reach room temperature and filtered to remove insoluble matter. The filtrate was concentrated under reduced pressure, followed by the addition of ethyl acetate (57 ml), water (17 ml), and 3 N hydrochloric acid aqueous solution (6.4 ml). The mixture was separated into layers to obtain a water layer. After washing the water layer with ethyl acetate (7 ml), water (6 ml), ethyl acetate (57 ml), and 6 N sodium hydroxide aqueous solution (3 ml) were added to separate the mixture into layers and obtain an organic layer. The organic layer was concentrated under reduced pressure and the residue was dried under reduced pressure to obtain fasudil (1.36 g). The yield was 41%. The fasudil is processed by the method described in JP-A-9-71582 to obtain fasudil hydrochloride.

reactant | Homopiperazine | 3.413 g | N1CCNCCC1 | C5H12N2
reactant | 5-isoquinolinesulfonyl chloride hydrochloride | 3.00 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
solvent | tetrahydrofuran | 57 ml | O1CCCC1 | C4H8O
product | fasudil | 1.36 g, yield was 41% | C=1C=C2C=NC=CC2=C(C1)S(=O)(=O)N3CCCNCC3 | C14H17N3O2S
